US06107342
A solution of (1S,2R,3R,5R,6S)-2-azido-3-hydroxy-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (VII-1) (345 mg, 1.0 mmol), 2,6-di-tert.-butylpyridine (1.35 mL, 6.0 mmol) and methyl triflate (0.55 mL, 5.0 mmol) in DCM (2 mL) was stirred at 23° C. for 4 d. The reaction mixture was poured on ice, acidified with 1 N HCl and extracted with ether. After washing with sat. NaHCO3 -sol., brine and drying over MgSO4 the crude product was purified by silica gel column chromatography with hexane/EtOAc 4:1 to give (1S,2R,3R,5R,6S)-2-azido-3-methoxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIII-1) (226 mg, 63%) as a yellow oil. 1H-NMR (250 MHz, CDC13) □1.26 (3H, t, J=7.1 Hz), 1.77 (1H, t, J=3.5 Hz), 2.05-2.18 (2H, m), 2.25 (1H, dd, J=7, 3.5 Hz), 2.34 (1H, dd, J=12, 7 Hz), 3.28 (3H, s), 3.42 (1H, bt,J=8 Hz), 4.12 (2H, q, J=7.1 Hz), 5.25 (1H, d,J=12 Hz), 5.34 (1H, d, J=12 Hz), 7.30-7.40 (5H, m); MS [EI] 258 [ (M--CO2Et-N2)+ ]; □D20 -48.02° (c=1.11, CHCl3).

reactant | (1S,2R,3R,5R,6S)-2-azido-3-hydroxy-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 1.0 mmol, 345 mg | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])O | C17H19N3O5
reactant | 2,6-di-tert.-butylpyridine | 6.0 mmol, 1.35 mL | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | methyl triflate | 5.0 mmol, 0.55 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | HCl | 1 N | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (1S,2R,3R,5R,6S)-2-azido-3-methoxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 226 mg, 63% | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])OC | C18H21N3O5
